US04292430
2-Phenyl-3-chloroisothiazolium Chloride
2-Phenyl-4-isothiazolium-3-one (J. Het. Chem., 8, 571 (1971) (1 g.) is stirred at room temperature with phosphorous oxychloride (3-5 ml.); the progress of the reaction was monitored by TLC for disappearance of starting material. The reaction can be speeded up by warming to 60° C. Ether is added to precipitate a white gum. The residue was flushed once more with ether and decanted. The material is used as such in the next step.

reactant | 2-Phenyl-4-isothiazolium-3-one | C1(=CC=CC=C1)N1SC=[CH2+]C1=O
reactant | phosphorous oxychloride | 3-5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | Ether | CCOCC | C4H10O
product | 2-Phenyl-3-chloroisothiazolium Chloride | [Cl-].C1(=CC=CC=C1)[N+]=1SC=CC1Cl | InChI=1S/C9H7ClNS.ClH/c10-9-6-7-12-11(9)8-4-2-1-3-5-8;/h1-7H;1H/q+1;/p-1
